US08877780B2
A mixture of 4-(ethylsulfonyl)benzoic acid (0.30 g, 1.4 mmol) and CDI (0.24 g, 1.5 mmol) in DMF (30 ml) was stirred at 40° C. for 4 hours. 3-(5-Aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione methanesulfonate (0.50 g, 1.4 mmol) was added and the mixture was stirred at 40° C. for 2 h. 4% Aqueous HCl (30 mL) was added and the resulting precipitate was filtered, washed with water (30 mL) and dried in vacuo providing N-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-4-ethanesulfonyl-benzamide as a white solid, (0.39 g, 66% yield); mp 222-224° C.; HPLC, Waters Symmetry C-18, 3.9×150 mm, 5 μm, 1 ml/min, 240 nm, 20/80 CH3CN/0.1% H3PO4, 6.39 (98.78%); 1H NMR (DMSO-d6) δ 1.11 (t, J=7.3 Hz, 3H, CH3), 1.92-2.09 (m, 1H, CHH), 2.28-2.46 (m, 1H, CHH), 2.54-2.67 (m, 1H, CHH), 2.82-3.02 (m, 1H, CHH), 3.37 (q, 2H, CH2), 4.31 (d, 1H, CHH), 4.42 (d, 1H, CHH), 4.62 (d, J=5.3 Hz, 2H, CHH), 5.11 (dd, J=4.8, 13.1 Hz, 1H, CH), 7.48 (d, 1H, Ar), 7.57 (s, 1H, Ar), 7.71 (d, 1H, Ar), 8.02 (s, 2H, Ar), 8.15 (d, J=8.1 Hz, 2H, Ar), 9.45 (t, 1H, NH), 10.96 (s, 1H, NH); 13C NMR (DMSO-d6) δ 7.05, 22.49, 31.20, 42.89, 47.13, 49.01, 51.58, 122.15, 122.97, 127.13, 127.94, 128.31, 130.46, 138.75, 140.71, 142.42, 143.45, 165.06, 167.89, 170.98, 172.85; LCMS: MH=470; Anal. Calcd for C23H23N3O6S+0.3 CH2Cl2: C, 56.54; H, 4.81; N, 8.49. Found: C, 56.51; H, 4.90; N, 8.84.

reactant | 4-(ethylsulfonyl)benzoic acid | 1.4 mmol, 0.30 g | C(C)S(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C9H10O4S
reactant | CDI | 1.5 mmol, 0.24 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 3-(5-Aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione methanesulfonate | 1.4 mmol, 0.50 g | CS(=O)(=O)O.NCC=1C=C2CN(C(C2=CC1)=O)C1C(NC(CC1)=O)=O
reactant | HCl | 30 mL | Cl | ClH
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | N-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-4-ethanesulfonyl-benzamide | 66% yield | O=C1NC(CCC1N1C(C2=CC=C(C=C2C1)CNC(C1=CC=C(C=C1)S(=O)(=O)CC)=O)=O)=O | C23H23N3O6S
